US07273877B2
Ethyl 6-chloro-4-[2-fluoro-4-(1,1,2,2,3,3,4,4,4-nonafluorobutyl)anilino]nicotinate was dissolved in CHCl3 and reacted with Me2SO4, followed by triethylamine, AcOH and EtOH as described for example 33, step B. Purification by recrystallisation (EtOAc/Hexane) gave ethyl 4-[2-fluoro-4-(1,1,2,2,3,3,4,4,4-nonafluorobutyl)anilino]-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate (47%). 1H NMR [400 MHz, (CD3)2SO] δ 9.50 (s, 1H), 8.35 (s, 1H), 7.58 (t, J=8.3 Hz, 1H), 7.52 (dd, J=10.9, 1.8 Hz, 1H), 7.34 (d, J=8.1 Hz, 1H), 5.59 (s, 1H), 4.08 (q, J=7.1 Hz, 2H), 3.22 (s, 3H), 1.10 (t, J=7.1 Hz, 3H).

reactant | Ethyl 6-chloro-4-[2-fluoro-4-(1,1,2,2,3,3,4,4,4-nonafluorobutyl)anilino]nicotinate | ClC1=NC=C(C(=O)OCC)C(=C1)NC1=C(C=C(C=C1)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)F | C18H11ClF10N2O2
reactant | Me2SO4 | COS(=O)(=O)OC | C2H6O4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | AcOH | CC(=O)O | C2H4O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | EtOH | CCO | C2H6O
product | ethyl 4-[2-fluoro-4-(1,1,2,2,3,3,4,4,4-nonafluorobutyl)anilino]-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 47% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)OCC)C=CC(=C1)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C19H14F10N2O3
